US07238714B2
Step 1. 5-Chloro-2-[(5-chloropyridin-3-yl)oxy]benzoic acid
The title compound was prepared according to the two steps procedure described in step 1 of Example 67 and step 2 of Example 99. Firstly, methyl 5-chloro-2-fluorobenzoate was reacted with 5-chloropyridin-3-ol. Next, the crude product was hydrolyzed to the corresponding carboxylic acid: 1H-NMR (DMSO-d6) δ 8.36 (1H, d, J=2.0 Hz), 8.25 (1H, d, J=2.4 Hz), 7.87 (1H, d, J=2.6 Hz), 7.70 (1H, dd, J=8.8, 2.6 Hz), 7.50 (1H, dd, J=2.4, 2.0 Hz), 7.29 (1H, d, J=8.8 Hz).

reactant | methyl 5-chloro-2-fluorobenzoate | ClC=1C=CC(=C(C(=O)OC)C1)F | C8H6ClFO2
reactant | 5-chloropyridin-3-ol | ClC=1C=C(C=NC1)O | C5H4ClNO
product | 5-Chloro-2-[(5-chloropyridin-3-yl)oxy]benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)OC=1C=NC=C(C1)Cl | C12H7Cl2NO3
